US07572809B2
NaH (155 mg) was added to a solution of Propan-2-ol (2 ml) and the resulting mixture was stirred for 1 hour. 1-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (100 mg) was added to the mixture, and the mixture was heated at 170° C. for 30 minutes under microwave irradiation. The reaction mixture was acidified to PH=3 with acetic acid and evaporated to oil. The residue was treated with water (50 ml) and the resulting solid was collected to give 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (50 mg). LC-MS: m/e 299 (MH+).

reactant | NaH | 155 mg | [H-].[Na+]
reactant | Propan-2-ol | 2 ml | CC(C)O | C3H8O
reactant | 1-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 100 mg | BrC1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C13H11BrN4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Isopropoxy-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 50 mg | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C16H18N4O2
